2191-12-20 06:51:00 Physician Resident Progress Note
CCU Intern Progress Note:
   -          Radial arterial line placement x 2
   -          Shivering
 cisatracurium 10mg IV x1, then started drip
   -          CTA Chest/Abd w Contrast done to evaluate for aorto-enteric
   fistula
 no fistula found
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2191-12-20**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-12-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 83 (78 - 120) bpm
   BP: 89/55(62) {80/53(60) - 131/97(117)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    683 mL
                                                                  1,258 mL
   PO:
             TF:
   IVF:
                                                                    683 mL
                                                                  1,258 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    285 mL
   Urine:
                                                                    120 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    973 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.49/31/71/24/1
   Ve: 12 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Pupils constrict equally
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: Distant heart sounds, irregularly irregular. No MRG
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   mechanical BS
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool, on arctic sun
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   64 K/uL
   10.9 g/dL
   133 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.4 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   30.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2191-12-19**]  04:08 PM
                             [**2191-12-19**]  09:11 PM
                             [**2191-12-20**]  12:24 AM
                             [**2191-12-20**]  02:23 AM
                             [**2191-12-20**]  04:36 AM
                             [**2191-12-20**]  04:39 AM
   WBC
   7.3
   5.7
   Hct
   32.5
   30.4
   Plt
   68
   64
   Cr
   1.3
   1.3
   TropT
   0.23
   0.26
   0.28
   TCO2
   26
   26
   24
   Glucose
   188
   133
   Other labs: PT / PTT / INR:14.6/33.6/1.3, CK / CKMB /
   Troponin-T:1875/66/0.28, ALT / AST:192/165, Alk Phos / T Bili:54/0.9,
   Lactic Acid:3.9 mmol/L, Albumin:3.4 g/dL, LDH:329 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   78M with CAD, HTN, HL, PVD presenting s/p VF arrest, with coffee ground
   emesis and guaiac+ stool.
   #.  V fib arrest
 Etiology unclear.  Known history of CAD.  Cardiac
   enzymes slightly elevated after defibrillation not suggestive of
   primary coronary ishemic event.  [**Month (only) 8**] also be scar mediated from prior
   MI.
   - Continue to trend enzymes
   - Echocardiogram and cardiac catheterization to further elucidate
   etiology
   - Cooling protocol until 15:30 on [**12-20**]
   - Continue statin
   - Restart beta-blocker if blood pressure stable.
   # PUMP:  EF unknown.  No evidence fluid overload on exam, oxygenating
   well.
   -Check TTE
   - Goal I/O net positive given relative hypotension during cooling and
   GI bleeding.
   # RHYTHM:  Inital presentation with VF arrest.   Started cooling
   protocol overnight.  Currently in and out of AF.
   -TTE
   - Need to obtain records regarding prior history of atrial fibrillation
   -Continue to trend CEs
   -will initiate low-dose oral metoprolol for rate-control
   # GIB
CT negative for aorto-enteric fistula.   Coffee ground NGT
   aspirate and guaiac pos stool with both BRB in stool/NGT aspirate.
   Will need EGD.
   -GI aware, tentative plan to EGD while intubated
   -Hold ASA/anticoagulation for now
   -Q8 HCT
   -Has active T&S
   -tx blood and platelets prn
   -has 3 large bore PIVs in place
   -[**Hospital1 **] IV PPI
   -Hold ACEI due to concern for bleed, BP also on low side.  Can restart
   if blood pressure rises after rewarming.
   # ? Liver disease. Pt with macrocytosis, transaminitis,
   thrombocytopenia. Raises concern for liver disease, although nl
   INR/albumin --> not decompensated.
   -continue to trend LFTs
   -tx platelets >50K if bleeding
   -OSH records/ call PCP to determine chronicity
   -GI for EGD, ? varices.
   -Consider hepatology c/s if varices found.
   # Thrombocytopenia - ? Liver disease.
   - Continue to trend
   FEN:  NPO
   ACCESS: PIV's  x3, A-line
   PROPHYLAXIS:  pneumoboots, bowel regimen, VAP bundle
   CODE: FULL, discussed with wife.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-12-19**] 06:31 PM
   Arterial Line - [**2191-12-19**] 10:00 PM
   20 Gauge - [**2191-12-20**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical care time 40 minutes.  Patient still on cooling protocol.
   Remains intubated.  No evidence for active bleeding.  No aortoenteric
   fistula on imaging.  Will continue cooling protocol and then rewarm.
   Reassess mental status and plan for cath to evaluate for etiology or
   arrest.  Hold anticoagulation for AF for now.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2191-12-20**] 10:29 ------

2191-12-23 06:57:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24 Hour Events:
   - successful extubation, but pt in apparent respiratory distress -->
   diuresed w lasix 60, nitro gtt, nebulizers and on BiPAP episodically
   - right radial a-line not functioning, discontinued
   - discussed w/ PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) 4350**]:
   *** [**1-29**] Echo with EF 30%, tried to convince pt to get ICD to no avail
   despite Holter with frequent ectopy
   *** no hx cath despite two MIs, most recently [**1-29**] in the setting of
   complications after AAA repair
   *** no hx liver disease, no hx GI bleed, no hx atrial fibrillation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2191-12-22**] 12:40 PM
   Morphine Sulfate - [**2191-12-22**] 12:40 PM
   Other medications:
   Flowsheet Data as of  [**2191-12-23**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 108 (63 - 115) bpm
   BP: 134/71(84) {109/55(69) - 148/88(99)} mmHg
   RR: 24 (10 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                    313 mL
                                                                     48 mL
   PO:
             TF:
   IVF:
                                                                    253 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    550 mL
   Urine:
                                                                  3,270 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,957 mL
                                                                   -502 mL
   Respiratory support
   NOW EXTUBATED, OFF RESPIRATORY SUPPORT
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 248 (248 - 664) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: 7.37/53/55/29/3
   Ve: 5.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: NAD, interactive
   Eyes / Conjunctiva: Pupils constrict equally
   Head, Ears, Nose, Throat: MMM, clear OP
   Cardiovascular: Distant heart sounds, irregularly irregular. No MRG
   Chest: course breath sounds throughout, diffuse crackles in bases
   Abdominal: Soft
   Extremities: warm, well-perfused
   Neurologic: interacting appropriately
   Labs / Radiology
   83 K/uL
   10.5 g/dL
   92 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   39 mg/dL
   102 mEq/L
   143 mEq/L
   30.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2191-12-21**]  01:43 PM
                             [**2191-12-21**]  04:38 PM
                             [**2191-12-22**]  05:04 AM
                             [**2191-12-22**]  05:12 AM
                             [**2191-12-22**]  03:13 PM
                             [**2191-12-22**]  04:55 PM
                             [**2191-12-22**]  05:09 PM
                             [**2191-12-22**]  06:15 PM
                             [**2191-12-23**]  12:49 AM
                             [**2191-12-23**]  04:09 AM
   WBC
   4.6
   5.5
   Hct
   29.5
   27.6
   29.3
   30.0
   Plt
   68
   83
   Cr
   1.8
   1.7
   1.7
   1.5
   TCO2
   26
   28
   28
   27
   29
   32
   Glucose
   79
   77
   86
   92
   Other labs: PT / PTT / INR:15.0/31.4/1.3, CK / CKMB /
   Troponin-T:622/21/0.28, ALT / AST:192/165, Alk Phos / T Bili:54/0.9,
   Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:329 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78M with CAD, HTN, HL, PVD presenting s/p VF arrest with coffee ground
   emesis and Guaiac+ stool.
   # VF arrest
 Etiology unclear.  Known history of CAD.  Cardiac enzymes
   slightly elevated after defibrillation not suggestive of primary
   coronary ishemic event.  [**Month (only) 8**] also be scar-mediated from prior MI. Now
   s/p extubation.
   - TTE showed decreased EF (20-25%) with known dilated CM, given
   unlikely primary cardiac ischemic event, therefore no need for c. cath
   at this point.
   - Given low EF, call EP today for ICD placement eval
   # Respiratory: successfully extubated, required BiPAP after extubation
   and overnight.
   - monitor respiratory status w ABGs PRN
   - BIPaP as needed
   -diuresis, goal CVP <4
   -continue nebs
   # CORONARIES: Known history of CAD. CE not suggestive of acute ischemic
   event.
   - Aspirin 81mg daily
   - Atorvastatin 80mg daily
   - Metoprolol 25mg TID
   - consider repeat cardiac cath in future
   -ICD placement as above
   # PUMP:  EF decreased (LVEF , systolic dysfunction with [**Last Name (LF) 2984**], [**First Name3 (LF) **] 20%.
   Lasix started yesterday given worsening overload on CXR.
   - Goal I/O net negative, monitor
   - Cont. diuresis with IV lasix, will give another 60mg IV today.
   # RHYTHM: Inital presentation with VF arrest.  Currently in and out of
   AF. As per PCP, [**Name10 (NameIs) **] history of a-fib, but extensive history of ectopy on
   outpatient Holter monitoring, ICD was recommended.
   - BB, will increase to 37.5mg TID, monitor closely in setting of COPD/?
   Asthma with beta antagonist.
   -Start heparin for now, hold on coumadin until EP cardioversion/ICD
   placement.
   # GIB: Coffee-ground NGT aspirate and Guaiac positive stool on
   admission. Likely [**12-26**] gastritis confirmed by EGD. No aorto-enteric
   fistula of CTA torso.  Now stable Hct ~30.
   - daily Hct, monitor closely while on AC
   - switch to PO PPI
   # ? Liver disease. Pt with macrocytosis, transaminitis,
   thrombocytopenia. Raises concern for liver disease, although nl
   INR/albumin --> not decompensated. No history of liver dz per PCP.
   [**Name10 (NameIs) 427**] to trend LFTs, downtrending. Plts stable.
   -tx platelets >50K if bleeding
   FEN:  Heart healthy
   ACCESS: PIV's  x3
   PROPHYLAXIS:  bowel regimen, hep gtt, ambulate to chair, PT consult
   CODE: FULL, discussed with wife.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-12-20**] 12:30 AM
   18 Gauge - [**2191-12-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   Critical Care time 40 min for unstable respiratory status
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2191-12-23**] 11:20 ------